US06861440B2
(2S)-1-({2-[5-Methyl-2-(5-trifluoromethyl-pyridin-2-yl)-thiazol-4-yl]-ethylamino}-acetyl)-pyrrolidine-2-carbonitrile
The title compound was prepared in analogy to example 31 (steps A] and C] as outlined for example 31 and step B] according to example 33) starting from 2-[5-methyl-2-(5-trifluoromethyl-pyridin-2-yl)-thiazol-4-yl]-ethanol. This starting material could be prepared from 5-trifluoromethyl-2-pyridinecarbothioamide [CAS 175277-51-7, commercially available] and methyl-4-bromo-3-oxopentanoate with 4-fluoro-benzamide as described in Collins, J. L. et al. J. Med. Chem. 1998, 41, 5037-5054. The compound was obtained as a yellow gum.

reactant | 2-[5-methyl-2-(5-trifluoromethyl-pyridin-2-yl)-thiazol-4-yl]-ethanol | CC1=C(N=C(S1)C1=NC=C(C=C1)C(F)(F)F)CCO | C12H11F3N2OS
reactant | 5-trifluoromethyl-2-pyridinecarbothioamide | FC(C=1C=CC(=NC1)C(N)=S)(F)F | C7H5F3N2S
reactant | methyl-4-bromo-3-oxopentanoate | COC(CC(C(C)Br)=O)=O | C6H9BrO3
reactant | 4-fluoro-benzamide | FC1=CC=C(C(=O)N)C=C1 | C7H6FNO
product | (2S)-1-({2-[5-Methyl-2-(5-trifluoromethyl-pyridin-2-yl)-thiazol-4-yl]-ethylamino}-acetyl)-pyrrolidine-2-carbonitrile | CC1=C(N=C(S1)C1=NC=C(C=C1)C(F)(F)F)CCNCC(=O)N1[C@@H](CCC1)C#N | C19H20F3N5OS
